US05468863
850 g of sulfolane, 204.3 g (3.3 mol) of potassium fluoride/cesium fluoride (9:1), 7.5 g of potassium carbonate and 20.4 g of tetra-n-octylphosphonium bromide as the phase transfer catalyst were azeotropically dried by removal of about 100 g of sulfolane by distillation (170° C.). 273.5 g (1.5 mol) of 2,3,5-trichloropyridine were then added at 190° C. and the reaction mixture was heated to 215° C. After about 2 h reflux commenced. This was maintained for 20 h, and all the substance which boiled below 3 mm Hg/140° C. was then removed from the reaction mixture by distillation. A first fraction (15.8 g) which contained 14.2 g of 5-chloro-2,3-difluoropyridine and 1.3 g of 3,5-dichloro-2-fluoropyridine (determined by GC by means of internal standard) was obtained. The second fraction (168.0 g) contained 89.4 g of 5-chloro-2,3-difluoropyridine and 64.5 g of 3,5-dichloro-2-fluoropyridine and the third fraction (b.p.>130° C./4 mm Hg) contained 98.5 g (GC) of sulfolane. The fractions were purified by fractionation. The yield was 46% for 5-chloro-2,3-difluoropyridine and 27% for 3,5-dichloro-2-fluoropyridine (total 73%, isolated). The yield of 5-chloro-2,3-difluoropyridine was 63%, relative to reacted material. The amount of 3-chloro-2,5-difluoropyridine, which additionally was about 5% of the quantity of 5-chloro-2,3difluoropyridine, was not taken into account here. (Space yield with respect to 5-chloro-2,3-difluoropyridine: 4.7 g/l·h; selectivity: 82%).

reactant | sulfolane | 850 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | potassium fluoride cesium fluoride | 3.3 mol, 204.3 g | [F-].[K+].[F-].[Cs+]
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sulfolane | about 100 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | 2,3,5-trichloropyridine | 1.5 mol, 273.5 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
catalyst | tetra-n-octylphosphonium bromide | 20.4 g | [Br-].C(CCCCCCC)[P+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
product | 3,5-dichloro-2-fluoropyridine | 1.3 g, yield was 46% | ClC=1C(=NC=C(C1)Cl)F | C5H2Cl2FN
